US04454131
Sodium hydride (132 g, 5.52 mol) was added gradually into isopropyl alcohol (2-3 l) with cooling. To the resulting solution was then added a mixture of isopropyl pyruvate (360 g, 2.76 mol) and di-isopropyl 2,2'-thiodiglycolate (648 g, 2.76 mol) over 20-30 minutes with ice-cooling so that the solution was kept at 60°-80° C. The solution was stirred further for 2 hours at a temperature of 60°-40° C. The solution was poured into an ice-cooled dilute hydrochloric acid solution to form a white crystalline mass, which was recovered by filtration and then washed with water. It was recrystallized from methanol (3 l) to give pure di-isopropyl 3-methyl-4-hydroxy-2,5-thiophene-dicarboxylate (270 g, 34%), m.p. 87°-89° C.

reactant | Sodium hydride | 5.52 mol, 132 g | [H-].[Na+]
reactant | isopropyl pyruvate | 2.76 mol, 360 g | C(C(=O)C)(=O)OC(C)C | C6H10O3
reactant | di-isopropyl 2,2'-thiodiglycolate | 2.76 mol, 648 g | S(C(C(=O)OC(C)C)O)C(C(=O)OC(C)C)O | C10H18O6S
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | 2-3 l | C(C)(C)O | C3H8O
product | di-isopropyl 3-methyl-4-hydroxy-2,5-thiophene-dicarboxylate | 270 g, 34% | CC1=C(SC(=C1O)C(=O)OC(C)C)C(=O)OC(C)C | C13H18O5S
